US09382244B2
25 g of NBS in 75 ml of DMF are added to a solution of 34.8 g of 2-methyl-1-(benzenesulfonyl)-7-azaindole in 75 ml of DMF. The mixture is stirred at room temperature for 1 h, poured into water, the precipitate which has precipitated out is separated off, washed with water and dried, giving 42 g of 3-bromo-2-methyl-1-(benzenesulfonyl)-7-azaindole, M˜351.22 g/mol, M+H found 351.

reactant | NBS | 25 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-methyl-1-(benzenesulfonyl)-7-azaindole | 34.8 g | CC=1N(C2=NC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C14H12N2O2S
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 3-bromo-2-methyl-1-(benzenesulfonyl)-7-azaindole | 42 g | BrC1=C(N(C2=NC=CC=C12)S(=O)(=O)C1=CC=CC=C1)C | C14H11BrN2O2S
